US06051605
3-[3-(Phenylmethoxy)phenoxy]-1-propanamine
A mixture of 3-[m-(benzyloxy)phenoxy]-propionitrile (203 g, 0.80 mol) in 2-propanol is hydrogenated over Raney nickel catalyst (50 g). The catalyst is filtered, and the filtrate is evaporated. Distillation of the residue under high vacuum gives 143 g (69%) of product, bp 190° C. (0.15 mm).

reactant | 3-[m-(benzyloxy)phenoxy]-propionitrile | 0.80 mol, 203 g | C(C1=CC=CC=C1)OC=1C=C(OCCC#N)C=CC1 | C16H15NO2
solvent | 2-propanol | CC(C)O | C3H8O
catalyst | Raney nickel | 50 g | [Ni] | Ni
product | 3-[3-(Phenylmethoxy)phenoxy]-1-propanamine | 143 g, 69% | C1(=CC=CC=C1)COC=1C=C(OCCCN)C=CC1 | C16H19NO2
